US09402397B2
A sealed tube was charged sequentially with 2-iodofuran (400 mg, 2.061 mmol), 1-chloro-4-ethynylbenzene (280 mg, 2.061 mmol), L-proline (47.4 mg, 0.412 mmol), Na2CO3 (44 mg, 0.412 mmol), sodium ascorbate (82 mg, 0.412 mmol), DMSO-H2O (9:1; 9 ml), NaN3 (160 mg, 2.47 mmol) and CuSO4.5H2O (514 mg, 2.061 mmol). The tube was sealed and stirred at 65° C. for 16 hours. The reaction mixture was then poured into a cold ammonium hydroxide solution, and the mixture was extracted with ethyl acetate (3×30 ml). The combined organic layers were washed with brine solution (30 ml), dried over sodium sulfate, and evaporated to yield the crude product, which was purified by column chromatography with 20% ethyl acetate/hexane to yield 4-(4-chlorophenyl)-1-(furan-2-yl)-1H-1,2,3-triazole (6 mg, 1.2%) as a pale yellow solid. The HPLC purity of the final product was 93.6%. LC-MS [M+1] 246 (C12H8ClN3O+H expected 246.04). The 1H-NMR spectra was in accordance with the chemical structure.

reactant | 2-iodofuran | 2.061 mmol, 400 mg | IC=1OC=CC1 | C4H3IO
reactant | 1-chloro-4-ethynylbenzene | 2.061 mmol, 280 mg | ClC1=CC=C(C=C1)C#C | C8H5Cl
reactant | L-proline | 0.412 mmol, 47.4 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Na2CO3 | 0.412 mmol, 44 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium ascorbate | 0.412 mmol, 82 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | NaN3 | 2.47 mmol, 160 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | DMSO H2O | 9 ml | CS(=O)C.O
product | 4-(4-chlorophenyl)-1-(furan-2-yl)-1H-1,2,3-triazole | 6 mg, 1.2% | ClC1=CC=C(C=C1)C=1N=NN(C1)C=1OC=CC1 | C12H8ClN3O
